US05886182
Preparation of 2,6-dimethoxy-3-bromo-4-(diphenylphosphinoyl)pyridine
A round bottom flask with a magnetic stirring bar was charged with 2,6-dimethoxy-3-bromo-4-(diphenylphosphino)pyridine (4.96 g) and 50 mL acetone. To this solution was slowly added approximately 35% hydrogen peroxide (33.9 mL). The reaction was monitored by thin-layer chromatography. The product was extracted with 3×20 mL dichloromethane. The combined extract was dried with anhydrous magnesium sulfate and was concentrated in vaccuo to give a crude product which was purified by column chromatography (silica gel, CHCl3 : ethyl acetate=1:1 with 5% NEt3) to give 5.15 g pure product (96% of theoretical yield).

reactant | 2,6-dimethoxy-3-bromo-4-(diphenylphosphino)pyridine | 4.96 g | COC1=NC(=CC(=C1Br)P(C1=CC=CC=C1)C1=CC=CC=C1)OC | C19H17BrNO2P
reactant | hydrogen peroxide | 33.9 mL | OO | H2O2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2,6-dimethoxy-3-bromo-4-(diphenylphosphinoyl)pyridine | 5.15 g, 96% | COC1=NC(=CC(=C1Br)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)OC | C19H17BrNO3P
